US20010027196A1
To a stirred solution of 290 mg (0.72 mmol) trifluoromethanesulfonic acid 2-amino-5-cyano-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidin-4-yl ester in 10 ml dioxane and 2 ml DMF under argon at room temperature were added 283 mg (0.79 mmol) tributyl-(4,5-dihydro-furan-2-yl)-stannane and 50 mg (0.07 mmol) bis(triphenylphosphine)palladium(II) chloride. The reaction mixture was heated at 100° C. for 1 h, then cooled to room temperature and partitioned between water and ethyl acetate. The organic phase was dried over sodium sulfate and concentrated in vacuo. Flash chromatography (ethyl acetate then 5/95 methanol/ethyl acetate) followed by trituration in ether afforded 20 mg (9%) 2-amino-4-(4,5-dihydro-furan-2-yl)-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidine-5-carbonitrile as a light brown crystalline solid. ES-MS m/e (%): 348 (M+Na+, 30), 326 (M+H+, 100).

reactant | trifluoromethanesulfonic acid 2-amino-5-cyano-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidin-4-yl ester | 0.72 mmol, 290 mg | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)C#N)SCCC1=NC=CC=C1 | C13H10F3N5O3S2
reactant | tributyl-(4,5-dihydro-furan-2-yl)-stannane | 0.79 mmol, 283 mg | C(CCC)[Sn](C=1OCCC1)(CCCC)CCCC
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.07 mmol, 50 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-amino-4-(4,5-dihydro-furan-2-yl)-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidine-5-carbonitrile | 20 mg, 9% | NC1=NC(=C(C(=N1)C=1OCCC1)C#N)SCCC1=NC=CC=C1 | C16H15N5OS
